US04933333
177 mg of (2S,4S)-1-p-methoxybenzyloxycarbonyl-2-benzylcarbamoyl-4-acetylthiopyrrolidine and 86 mg of anisole were dissolved in 0.5 ml of trifluoroacetic acid, followed by stirring at room temperature for 30 minutes. The reaction mixture was concentrated under reduced pressure, diluted with ethyl acetate, washed successively with an aqueous solution of sodium bicarbonate and water and dried over sodium sulfate. The solvent was removed by distillation, and the residue was subjected to silica gel thin layer chromatography to obtain (2S,4S)-2-benzylcarbamoyl-4-acetylthiopyrrolidine.

reactant | (2S,4S)-1-p-methoxybenzyloxycarbonyl-2-benzylcarbamoyl-4-acetylthiopyrrolidine | 177 mg | COC1=CC=C(COC(=O)N2[C@@H](C[C@@H](C2)SC(C)=O)C(NCC2=CC=CC=C2)=O)C=C1 | C23H26N2O5S
reactant | anisole | 86 mg | C1(=CC=CC=C1)OC | C7H8O
solvent | trifluoroacetic acid | 0.5 ml | FC(C(=O)O)(F)F | C2HF3O2
product | (2S,4S)-2-benzylcarbamoyl-4-acetylthiopyrrolidine | C(C1=CC=CC=C1)NC(=O)[C@H]1NC[C@H](C1)SC(C)=O | C14H18N2O2S
